US07435823B2
Step (a) Preparation of N-(6-hydroxy-(2-naphthyl))(benzyloxy)carboxamide
6-Hydroxy-2-naphthoic acid (30 g, 160 mmol, Aldrich), dppa (48.4 g, 176 mmol, Aldrich), benzyl alcohol (51.8 g, 480 mmol, Aldrich) and Et3N (32.3 g, 320 mmol, Aldrich) were heated at reflux with toluene (500 mL, Aldrich) for 16 h. After cooling to RT, the volatile portion was removed in vacuo. The resulting brown residue was purified by silica gel column chromatography (40% EtOAc/hexane) to give crude compound, which was further purified by crystallization from 50% EtOAc/Hexane to give the title compound as an off-white solid. MS (ESI, pos. ion) m/z: 294.2 (M+1). Mass Calc'd for C18H15NO3: 293.11.

reactant | 6-Hydroxy-2-naphthoic acid | 160 mmol, 30 g | OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H8O3
reactant | dppa | 176 mmol, 48.4 g | C[C@@H]1C[C@@]2([C@@H](C2(C)C)[C@H]3[C@]1([C@@H]4C=C(C(=O)[C@]4(CC(=C3)COC(=O)C)O)C)O)OC(=O)CC5=CC=CC=C5 | C30H36O7
reactant | benzyl alcohol | 480 mmol, 51.8 g | C(C1=CC=CC=C1)O | C7H8O
reactant | Et3N | 320 mmol, 32.3 g | CCN(CC)CC | C6H15N
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | N-(6-hydroxy-(2-naphthyl))(benzyloxy)carboxamide | OC=1C=C2C=CC(=CC2=CC1)NC(=O)OCC1=CC=CC=C1 | C18H15NO3
